US09302989B2
tert-butyl [4-(9-chloro-5-oxo-2,3,3a,4,4a,5-hexahydro-6H-furo[2′,3′:2,3]cyclobuta[1,2-c]quinolin-6-yl)butyl]carbamate
To a solution of 9-chloro-3,3a,4,4a-tetrahydro-2H-furo[2′,3′:2,3]cyclobuta[1,2-c]quinolin-5(6H)-one (200 mg, 0.801 mmol) in dimethylformamide (4 ml) at 0° C. was slowly added sodium hydride (19 mg, 0.801 mmol) over 15 minutes. The suspension was allowed to warm to room temperature. The mixture stirred for 45 minutes and 4-(Boc-amino)butyl bromide (202 mg, 0.801 mmol) was added. The solution was stirred for 15 hours, followed by addition of 0.25 mL methanol. Column chromatography provided the title compound.

reactant | 9-chloro-3,3a,4,4a-tetrahydro-2H-furo[2′,3′:2,3]cyclobuta[1,2-c]quinolin-5(6H)-one | 0.801 mmol, 200 mg | ClC1=CC=2C34C(C(NC2C=C1)=O)CC3CCO4 | C13H12ClNO2
reactant | sodium hydride | 0.801 mmol, 19 mg | [H-].[Na+]
reactant | 4-(Boc-amino)butyl bromide | 0.801 mmol, 202 mg | C(=O)(OC(C)(C)C)NCCCCBr | C9H18BrNO2
reactant | methanol | 0.25 mL | CO | CH4O
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | tert-butyl [4-(9-chloro-5-oxo-2,3,3a,4,4a,5-hexahydro-6H-furo[2′,3′:2,3]cyclobuta[1,2-c]quinolin-6-yl)butyl]carbamate | ClC1=CC=2C34C(C(N(C2C=C1)CCCCNC(OC(C)(C)C)=O)=O)CC3CCO4 | C22H29ClN2O4
